US07994185B2
N-[3-(2-(Dimethylamino)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-2,6-difluorobenzenesulfonamide
N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(dimethylamino)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (0.1 g, 0.2 mmol) was taken up in 2 mL isobutylamine and heated to 35° C. overnight. The solvent was removed under reduce pressure and the residue taken up in EtOAc and washed with 2 mL of 0.1 N HCl (aq). The organic layer was dried over Na2SO4 and evaporated to afforded the title compound (36 mg, 0.066 mmol, 33.6% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.01 (s, 1H), 7.74 (d, J=5.3 Hz, 1H), 7.67 (ddd, J=14.6, 8.4, 6.1 Hz, 1H), 7.28-7.35 (m, 1H), 7.18-7.28 (m, 4H), 7.12 (d, J=7.7 Hz, 1H), 7.07 (t, J=5.5 Hz, 1H), 5.68 (s, 1H), 3.06 (s, 6H), 3.02 (t, J=6.3 Hz, 2H), 1.82 (dt, J=13.4, 6.7 Hz, 1H), 0.86 (d, J=6.8 Hz, 6H). MS (ESI): 545 [M+H]+.

reactant | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(dimethylamino)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.2 mmol, 0.1 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C21H16ClF2N5O2S2
solvent | isobutylamine | 2 mL | C(C(C)C)N | C4H11N
product | N-[3-(2-(Dimethylamino)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-2,6-difluorobenzenesulfonamide | 0.066 mmol, 36 mg, 33.6% yield | CN(C=1SC(=C(N1)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)C1=NC(=NC=C1)NCC(C)C)C | C25H26F2N6O2S2
